US06368814B1
To 6.02 g of desipramine hydrochloride was added 150 ml of 1N NaOH. The mixture was allowed to stir for 10 minutes. The aqueous mixture was extracted with 6×100 ml of chloroform. The combined chloroform layer was washed with 200 ml of water. The organic part was dried (Na2SO4) and concentrated to give 5.25 g of desipramine free base.

reactant | desipramine hydrochloride | 6.02 g | CNCCCN1C=2C=CC=CC2CCC3=C1C=CC=C3.Cl
solvent | NaOH | 1N, 150 ml | [OH-].[Na+]
product | desipramine | 5.25 g | CNCCCN1C=2C=CC=CC2CCC3=C1C=CC=C3 | C18H22N2
